### PR TITLE
[Merged by Bors] - feat(ModularForms/JacobiTheta): derivative of theta function

### PR DESCRIPTION
**Pull request by loefflerd**
This is a rewrite of `JacobiTheta/TwoVariable.lean`, adding a number of new results needed for Hurwitz and Dirichlet L-series.

The main addition is developing the theory of the `z`-derivative of the theta function, as an object of study in its own right (functional equations, periodicity, holomorphy etc) – this is needed to prove analytic continuation + functional equations for odd Dirichlet characters. 

We also add a number of new results about the existing `jacobiTheta2` function:
- converses of all the convergence statements (showing the series are *never* convergent if tau is outside the upper half-plane), which allows hypotheses to be removed from several results further downstream
- differentiability in both variables jointly, not just each variable separately as before.

---

- [x] depends on: #11980

### CODE REVIEW

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/OneVariable.lean [hunk 1]
```diff
@@ -45,13 +46,12 @@ theorem jacobiTheta_S_smul (τ : ℍ) :
...
   simp_rw [UpperHalfPlane.modular_S_smul, jacobiTheta_eq_jacobiTheta₂]
-  conv_rhs => erw [← ofReal_zero, jacobiTheta₂_functional_equation 0 τ.2]
+  conv_rhs => erw [← ofReal_zero, jacobiTheta₂_functional_equation 0 τ]
   rw [zero_pow two_ne_zero, mul_zero, zero_div, Complex.exp_zero, mul_one, ← mul_assoc, mul_one_div]
   erw [div_self]
   rw [one_mul, UpperHalfPlane.coe_mk, inv_neg, neg_div, one_div]
-  · rfl
-  · rw [Ne, cpow_eq_zero_iff, not_and_or]
-    exact Or.inl <| mul_ne_zero (neg_ne_zero.mpr I_ne_zero) h0
+  rw [Ne, cpow_eq_zero_iff, not_and_or]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/OneVariable.lean:53]: Can the two `rw`s be combined?

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 2]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
-  · exact fun i ξ (hξ : T < im ξ) ↦ jacobiTheta₂_term_bound hT.1 (le_refl _) hξ.le i
+/-- The series defining the theta function is summable if and only if `0 < im τ`. -/
+lemma summable_jacobiTheta₂_term_iff (z τ : ℂ) : Summable (jacobiTheta₂_term · z τ) ↔ 0 < im τ := by
+  -- NB. This is a statement of no great mathematical interest; it is included largely to avoid
+  -- having to impose `0 < im τ` as a hypothesis on many later lemmas.
+  refine Iff.symm ⟨fun hτ ↦ ?_, fun h ↦ ?_⟩ -- do quicker implication first!
+  · refine (summable_pow_mul_jacobiTheta₂_term_bound |im z| hτ 0).of_norm_bounded _ ?_
+    simpa only [pow_zero, one_mul] using norm_jacobiTheta₂_term_le hτ le_rfl le_rfl
+  · by_contra! hτ
+    rcases lt_or_eq_of_le hτ with hτ | hτ
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:124]:
```suggestion
    rcases lt_or_eq_of_le hτ with hτ | rfl
```
this saves rewriting by `hτ` below.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 3]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
+        exact atTop_neBot.ne (disjoint_self.mp <| h.disjoint (disjoint_nhds_atTop _) this)
+      simp only [norm_zero, Function.comp_def, norm_jacobiTheta₂_term, Int.cast_ofNat]
+      simp_rw [(by { intro; ring_nf } : ∀ (n : ℕ), -π * n ^ 2 * τ.im - 2 * π * n * z.im =
+        n * (n * (-π * τ.im) - 2 * π * z.im))]
+      refine tendsto_exp_atTop.comp (tendsto_nat_cast_atTop_atTop.atTop_mul_atTop ?_)
+      exact tendsto_atTop_add_const_right _ _ (tendsto_nat_cast_atTop_atTop.atTop_mul_const
+        (mul_pos_of_neg_of_neg (neg_lt_zero.mpr pi_pos) hτ))
+    · -- case im τ = 0: 3-way split according to `im z`
+      simp_rw [← summable_norm_iff (E := ℂ), norm_jacobiTheta₂_term, hτ, mul_zero, zero_sub] at h
+      rcases lt_trichotomy (im z) 0 with hz | hz | hz
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:137]:
```suggestion
      rcases lt_trichotomy (im z) 0 with hz | rfl | hz
```

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 4]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
+    mul_comm _ ‖cexp _‖, (by norm_num : (3 : ℝ) = 2 + 1), add_mul, add_mul]
+  refine mul_le_mul_of_nonneg_left ((norm_add_le _ _).trans (add_le_add ?_ ?_)) (norm_nonneg _)
+  · simp_rw [norm_smul (α := ℂ) (β := (ℂ × ℂ) →L[ℂ] ℂ), norm_mul, ← ofReal_ofNat, ← ofReal_int_cast,
+      norm_real, norm_of_nonneg zero_le_two, Real.norm_of_nonneg pi_pos.le, norm_I, mul_one,
+      Real.norm_eq_abs, Int.cast_abs, mul_assoc]
+    refine mul_le_mul_of_nonneg_left (mul_le_mul_of_nonneg_left ?_ pi_pos.le) two_pos.le
+    refine le_trans ?_ (?_ : |(n : ℝ)| ≤ |(n : ℝ)| ^ 2)
+    · exact mul_le_of_le_one_right (abs_nonneg _) (ContinuousLinearMap.norm_fst_le ..)
+    · rw [← Int.cast_abs, ← Int.cast_natAbs, ← Nat.cast_pow, Nat.cast_le]
+      apply Nat.le_self_pow two_ne_zero
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:166]:
```suggestion
    · exact_mod_cast Int.le_self_sq |n|
```
(less than half the hearbeats...)

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 5]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
+    smul_eq_mul, mul_one, mul_comm _ ‖cexp _‖, norm_mul]
+  refine mul_le_mul_of_nonneg_left (le_of_eq ?_) (norm_nonneg _)
+  simp_rw [norm_real, norm_of_nonneg pi_pos.le, norm_I, mul_one,
+    Int.cast_abs, ← abs_intCast, Complex.norm_eq_abs, Complex.abs_pow]
+
+lemma summable_jacobiTheta₂_term_fderiv_iff (z τ : ℂ) :
+    Summable (jacobiTheta₂_term_fderiv · z τ) ↔ 0 < im τ := by
+  constructor
+  · rw [← summable_jacobiTheta₂_term_iff (z := z)]
+    refine fun h ↦ h.norm.of_norm_bounded_eventually _  ?_
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:191]:
```suggestion
    refine fun h ↦ h.norm.of_norm_bounded_eventually _ ?_
```

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 6]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
+
+lemma hasSum_jacobiTheta₂_term_fderiv (z : ℂ) {τ : ℂ} (hτ : 0 < im τ) :
+    HasSum (fun n ↦ jacobiTheta₂_term_fderiv n z τ) (jacobiTheta₂_fderiv z τ) :=
+  ((summable_jacobiTheta₂_term_fderiv_iff z τ).mpr hτ).hasSum
+
+lemma hasSum_jacobiTheta₂'_term (z : ℂ) {τ : ℂ} (hτ : 0 < im τ) :
+    HasSum (fun n ↦ jacobiTheta₂'_term n z τ) (jacobiTheta₂' z τ) :=
+  ((summable_jacobiTheta₂'_term_iff z τ).mpr hτ).hasSum
+
+lemma jacobiTheta₂_undef (z : ℂ) {τ : ℂ} (hτ : im τ ≤ 0) : jacobiTheta₂ z τ = 0 := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:266]: I think most lemmas stating junk values are named using the junk value (`..._eq_zero_of_...` or so), but it appears that there are eight occurrences of `..._undef` in similar lemmas already in Mathlib.
In my opinion, `_undef` makes some sense here, but it would be nice to have more consistency...

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 7]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
+lemma differentiableAt_jacobiTheta₂_snd (z : ℂ) {τ : ℂ} (hτ : 0 < im τ) :
+    DifferentiableAt ℂ (jacobiTheta₂ z) τ :=
+  ((hasFDerivAt_jacobiTheta₂ z hτ).comp τ (hasFDerivAt_prod_mk_right z τ)).differentiableAt
+
+lemma hasDerivAt_jacobiTheta₂_fst (z : ℂ) {τ : ℂ} (hτ : 0 < im τ) :
+    HasDerivAt (jacobiTheta₂ · τ) (jacobiTheta₂' z τ) z := by
+  -- This proof is annoyingly fiddly, because of the need to commute "evaluation at a point"
+  -- through infinite sums of continuous linear maps.
+  have step1 : HasSum (fun n ↦ jacobiTheta₂_term_fderiv n z τ) (jacobiTheta₂_fderiv z τ) :=
+    hasSum_jacobiTheta₂_term_fderiv z hτ
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:333]: The statement is twice as long as the proof. Does it makes sense to inline this below?
(If you think it helps structuring the proof as it is, then it is fine to leave it.)

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 8]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
+  { toFun := fun f ↦ f (1, 0), map_add' := by simp, map_smul' := by simp }
+  have step2: HasSum (fun n ↦ (jacobiTheta₂_term_fderiv n z τ) (1, 0))
+      ((jacobiTheta₂_fderiv z τ) (1, 0)) := by convert eval_fst_CLM.hasSum step1
+  have step3 (n : ℤ) : (jacobiTheta₂_term_fderiv n z τ) (1, 0) = jacobiTheta₂'_term n z τ := by
+    simp [jacobiTheta₂'_term, jacobiTheta₂_term_fderiv, jacobiTheta₂_term, mul_comm _ (cexp _)]
+  rw [funext step3] at step2
+  have step4 : HasDerivAt (fun x ↦ jacobiTheta₂ x τ) ((jacobiTheta₂_fderiv z τ) (1, 0)) z :=
+    ((hasFDerivAt_jacobiTheta₂ z hτ).comp z (hasFDerivAt_prod_mk_left z τ)).hasDerivAt
+  rw [← step2.tsum_eq] at step4
+  exact step4
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:344]: Does `rwa ... at step4` work here?

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 9]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
+    ContinuousAt (fun p : ℂ × ℂ ↦ jacobiTheta₂' p.1 p.2) (z, τ) := by
+  obtain ⟨T, hT, hτ'⟩ := exists_between hτ
+  obtain ⟨S, hz⟩ := exists_gt |im z|
+  let V := {u | |im u| < S} ×ˢ {v | T < im v}
+  have hVo : IsOpen V := ((_root_.continuous_abs.comp continuous_im).isOpen_preimage _
+    isOpen_Iio).prod (continuous_im.isOpen_preimage _ isOpen_Ioi)
+  refine ContinuousOn.continuousAt ?_ (hVo.mem_nhds ⟨hz, hτ'⟩)
+  let u (n : ℤ) : ℝ := 2 * π * |n| * rexp (-π * (T * n ^ 2 - 2 * S * |n|))
+  have hu : Summable u  := by simpa only [u, mul_assoc, pow_one]
+      using (summable_pow_mul_jacobiTheta₂_term_bound S hT 1).mul_left (2 * π)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:356]: There is some repetition here (compare the proof of `hasFDerivAt_jacobiTheta₂`).
Is there a general principle that can be extracted?

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 10]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
   refine tsum_congr (fun n ↦ ?_)
-  simp_rw [mul_add, mul_one, Complex.exp_add]
-  suffices cexp (2 * ↑π * I * n) = 1 by rw [this, mul_one]
-  simpa only [mul_comm] using exp_int_mul_two_pi_mul_I n
+  simp_rw [jacobiTheta₂_term, mul_add, Complex.exp_add, mul_one, mul_comm _ (n : ℂ),
+    exp_int_mul_two_pi_mul_I, mul_one]
 
 /-- The two-variable Jacobi theta function is quasi-periodic in `z` with period `τ`. -/
-lemma jacobiTheta₂_add_left' (z τ : ℂ) :
+lemma jacobiTheta₂_add_left' (z τ : ℂ):
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:381]:
```suggestion
lemma jacobiTheta₂_add_left' (z τ : ℂ) :
```

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 11]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
+    exp_two_pi_mul_I, one_zpow]
+
+lemma jacobiTheta₂'_add_left (z τ : ℂ) : jacobiTheta₂' (z + 1) τ = jacobiTheta₂' z τ := by
+  unfold jacobiTheta₂' jacobiTheta₂'_term jacobiTheta₂_term
+  congr 1 with n
+  simp_rw [mul_add, Complex.exp_add, mul_one, mul_comm _ (n : ℂ), exp_int_mul_two_pi_mul_I, mul_one]
+
+lemma jacobiTheta₂'_add_left' (z τ : ℂ) :
+    jacobiTheta₂' (z + τ) τ = cexp (-π * I * (τ + 2 * z)) * (jacobiTheta₂' z τ -
+      2 * π * I * jacobiTheta₂ z τ) := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:415]:
```suggestion
    jacobiTheta₂' (z + τ) τ =
      cexp (-π * I * (τ + 2 * z)) * (jacobiTheta₂' z τ - 2 * π * I * jacobiTheta₂ z τ) := by
```

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 12]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
-equation for Dirichlet L-series. -/
-theorem jacobiTheta₂_functional_equation (z : ℂ) {τ : ℂ} (hτ : 0 < im τ) :
-    jacobiTheta₂ z τ =
-      1 / (-I * τ) ^ (1 / 2 : ℂ) * cexp (-π * I * z ^ 2 / τ) * jacobiTheta₂ (z / τ) (-1 / τ) := by
+equation for L-series of even Dirichlet characters. -/
+theorem jacobiTheta₂_functional_equation (z τ : ℂ) : jacobiTheta₂ z τ =
+    1 / (-I * τ) ^ (1 / 2 : ℂ) * cexp (-π * I * z ^ 2 / τ) * jacobiTheta₂ (z / τ) (-1 / τ) := by
+  rcases le_or_lt (im τ) 0 with hτ | hτ
+  · rw [jacobiTheta₂_undef z hτ, jacobiTheta₂_undef, mul_zero]
+    rw [neg_div, neg_im, one_div, inv_im, neg_nonpos]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:458]: Is there a reason why there are two `rw`s instead of one?
(I see that combining them would likely not save a line, so it's OK either way.)

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 13]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
+  simp_rw [jacobiTheta₂'_term, jacobiTheta₂_term, map_mul, ← Complex.exp_conj, map_add, map_mul,
+    ← ofReal_int_cast,← ofReal_ofNat, map_pow, conj_ofReal, conj_I]
+  ring_nf
+
+/-!
+## Functional equations
+-/
+
 /-- The functional equation for the Jacobi theta function: `jacobiTheta₂ x τ` is an explict factor
 times `jacobiTheta₂ (x / τ) (-1 / τ)`. This is the key lemma behind the proof of the functional
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:452]: Use `z` instead of `x` (as in the code)? (Similarly below for the derivative.)

File: Mathlib/NumberTheory/ZetaFunction.lean [hunk 14]
```diff
@@ -6,6 +6,7 @@ Authors: David Loeffler
 import Mathlib.Analysis.SpecialFunctions.Gamma.Beta
 import Mathlib.NumberTheory.ModularForms.JacobiTheta.OneVariable
 import Mathlib.NumberTheory.ZetaValues
+import Mathlib.Analysis.Complex.RemovableSingularity
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ZetaFunction.lean:9]: Why is this necessary now if it wasn't before?

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 15]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
-    ‖cexp (2 * π * I * n * z + π * I * n ^ 2 * τ)‖ ≤ Real.exp (-π * (T * n ^ 2 - 2 * S * |n|)) := by
-  rw [Complex.norm_eq_abs, Complex.abs_exp, (by push_cast; ring :
+/-- Summand in the series for the Jacobi theta function. -/
+def jacobiTheta₂_term (n : ℤ) (z τ : ℂ) : ℂ := cexp (2 * π * I * n * z + π * I * n ^ 2 * τ)
+
+/-- Summand in the series for the Fréchet derivative of the Jacobi theta function. -/
+def jacobiTheta₂_term_fderiv (n : ℤ) (z τ : ℂ) : ℂ × ℂ →L[ℂ] ℂ :=
+  (cexp (2 * π * I * n * z + π * I * n ^ 2 * τ) •
+  ((2 * π * I * n) • (ContinuousLinearMap.fst ℂ ℂ ℂ) +
+  (π * I * n ^ 2) • (ContinuousLinearMap.snd ℂ ℂ ℂ)))
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:46]:
```suggestion
  cexp (2 * π * I * n * z + π * I * n ^ 2 * τ) •
    ((2 * π * I * n) • (ContinuousLinearMap.fst ℂ ℂ ℂ) +
      (π * I * n ^ 2) • (ContinuousLinearMap.snd ℂ ℂ ℂ))
```
Not sure what the style guide says, but I find this more readable (and the outer parens are not necessary).

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 16]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
-    Summable (fun n : ℤ ↦ Real.exp (-π * (T * n ^ 2 - 2 * S * |n|))) := by
-  suffices Summable (fun n : ℕ ↦ Real.exp (-π * (T * n ^ 2 - 2 * S * n))) by
+/-- A uniform upper bound for `jacobiTheta₂'_term` on compact subsets. -/
+lemma norm_jacobiTheta₂'_term_le {S T : ℝ} (hT : 0 < T) {z τ : ℂ}
+    (hz : |im z| ≤ S) (hτ : T ≤ im τ) (n : ℤ) :
+    ‖jacobiTheta₂'_term n z τ‖ ≤ 2 * π * |n| * rexp (-π * (T * n ^ 2 - 2 * S * |n|)) := by
+  rw [jacobiTheta₂'_term, norm_mul]
+  refine mul_le_mul (le_of_eq ?_) (norm_jacobiTheta₂_term_le hT hz hτ n)
+    (norm_nonneg _) (by positivity)
+  simp_rw [norm_mul, Complex.norm_eq_abs, Complex.abs_two, abs_I,
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:97]:
```suggestion
  simp only [norm_mul, Complex.norm_eq_abs, Complex.abs_two, abs_I,
```
is slightly faster.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 17]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
     simpa only [Int.cast_neg, neg_sq, abs_neg, Int.cast_ofNat, Nat.abs_cast]
-  apply summable_of_isBigO_nat summable_exp_neg_nat
+  apply summable_of_isBigO_nat (summable_pow_mul_exp_neg_nat_mul k zero_lt_one)
+  apply IsBigO.mul (isBigO_refl _ _)
   refine Real.isBigO_exp_comp_exp_comp.mpr (Tendsto.isBoundedUnder_le_atBot ?_)
-  rw [← tendsto_neg_atTop_iff]
-  simp only [neg_mul, Pi.sub_apply, sub_neg_eq_add, neg_add_rev, neg_neg]
+  simp_rw [← tendsto_neg_atTop_iff, Pi.sub_apply]
   suffices Tendsto (fun n ↦ n * (π * T * n - (2 * π * S + 1)) : ℕ → ℝ) atTop atTop by
     convert this using 2 with n; ring
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:112]:
```suggestion
  conv =>
    enter [1, n]
    rw [show -(-π * (T * n ^ 2 - 2 * S * n) - -1 * n) = n * (π * T * n - (2 * π * S + 1)) by ring]
```
makes the proof twice as fast (the `convert` is fairly slow).

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 18]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
+/-- Summand in the series for the Jacobi theta function. -/
+def jacobiTheta₂_term (n : ℤ) (z τ : ℂ) : ℂ := cexp (2 * π * I * n * z + π * I * n ^ 2 * τ)
+
+/-- Summand in the series for the Fréchet derivative of the Jacobi theta function. -/
+def jacobiTheta₂_term_fderiv (n : ℤ) (z τ : ℂ) : ℂ × ℂ →L[ℂ] ℂ :=
+  (cexp (2 * π * I * n * z + π * I * n ^ 2 * τ) •
+  ((2 * π * I * n) • (ContinuousLinearMap.fst ℂ ℂ ℂ) +
+  (π * I * n ^ 2) • (ContinuousLinearMap.snd ℂ ℂ ℂ)))
+
+lemma hasFDerivAt_jacobiTheta₂_term (n : ℤ) (z τ : ℂ) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:48]: This is fairly slow (~ 13500 heartbeats), probably because of type class inference. Not sure much can be done about that.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 19]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
+      · have : ((-↑·) : ℕ → ℤ).Injective := fun _ _ ↦ by simp only [neg_inj, Nat.cast_inj, imp_self]
+        replace h := (h.comp_injective this).tendsto_atTop_zero
+        simp_rw [Function.comp_def, Int.cast_neg, Int.cast_ofNat, mul_neg, neg_mul, neg_neg] at h
+        refine atTop_neBot.ne (disjoint_self.mp <| h.disjoint (disjoint_nhds_atTop 0) ?_)
+        exact tendsto_exp_atTop.comp ((tendsto_nat_cast_atTop_atTop.const_mul_atTop
+          (mul_pos two_pos pi_pos)).atTop_mul_const hz)
+
+lemma norm_jacobiTheta₂_term_fderiv_le (n : ℤ) (z τ : ℂ) : ‖jacobiTheta₂_term_fderiv n z τ‖
+    ≤ 3 * π * |n| ^ 2 * ‖jacobiTheta₂_term n z τ‖ := by
+  rw [jacobiTheta₂_term_fderiv, jacobiTheta₂_term, norm_smul (α := ℂ) (β := (ℂ × ℂ) →L[ℂ] ℂ),
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:156]: Rewriting with `norm_smul` costs nearly 7000 heartbeats. Would it help to have a local specialized version of that? You need it three times in this proof (which currently eats close to 30000 heartbeats). E.g.,
```lean
  have hns (a : ℂ) (f : (ℂ × ℂ) →L[ℂ] ℂ) : ‖a • f‖ = ‖a‖ * ‖f‖ :=
    norm_smul a f
```
and then use `hns` three times. `hns` still costs 10000 heartbeats (I think this is because some instances need to be unified [possibly `@instHSMul ℂ (ℂ × ℂ →L[ℂ] ℂ) SMulZeroClass.toSMul =?= @instHSMul ℂ (ℂ × ℂ →L[ℂ] ℂ) ContinuousLinearMap.instSMul]), but the total goes down by almost 50%.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 20]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
+    HasFDerivAt (fun p : ℂ × ℂ ↦ jacobiTheta₂ p.1 p.2) (jacobiTheta₂_fderiv z τ) (z, τ) := by
+  obtain ⟨T, hT, hτ'⟩ := exists_between hτ
+  obtain ⟨S, hz⟩ := exists_gt |im z|
+  let V := {u | |im u| < S} ×ˢ {v | T < im v}
+  have hVo : IsOpen V := by
+    refine ((_root_.continuous_abs.comp continuous_im).isOpen_preimage _ isOpen_Iio).prod ?_
+    exact continuous_im.isOpen_preimage _ isOpen_Ioi
+  have hVmem : (z, τ) ∈ V := ⟨hz, hτ'⟩
+  have hVp : IsPreconnected V := by
+    refine (Convex.prod ?_ (convex_halfspace_im_gt T)).isPreconnected
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:295]: This line costs 60000 heartbeats (!)
It looks like trying shortcut instances could really speed things up...

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 21]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
+    refine fun n p hp ↦ (norm_jacobiTheta₂_term_fderiv_le n p.1 p.2).trans ?_
+    refine mul_le_mul_of_nonneg_left ?_ (by positivity)
+    exact norm_jacobiTheta₂_term_le hT (le_of_lt hp.1) (le_of_lt hp.2) n
+  have hu_sum : Summable u := by
+    simp_rw [u, mul_assoc (3 * π)]
+    exact (summable_pow_mul_jacobiTheta₂_term_bound S hT 2).mul_left _
+  have hf_sum : Summable fun n : ℤ ↦ f n (z, τ) := by
+    refine (summable_pow_mul_jacobiTheta₂_term_bound S hT 0).of_norm_bounded _ ?_
+    simpa only [pow_zero, one_mul] using norm_jacobiTheta₂_term_le hT hz.le hτ'.le
+  convert hasFDerivAt_tsum_of_isPreconnected hu_sum hVo hVp hf hu hVmem hf_sum hVmem
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:312]: This last `convert` is also somewhat heavy.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 22]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
+  ((hasFDerivAt_jacobiTheta₂ z hτ).comp τ (hasFDerivAt_prod_mk_right z τ)).differentiableAt
+
+lemma hasDerivAt_jacobiTheta₂_fst (z : ℂ) {τ : ℂ} (hτ : 0 < im τ) :
+    HasDerivAt (jacobiTheta₂ · τ) (jacobiTheta₂' z τ) z := by
+  -- This proof is annoyingly fiddly, because of the need to commute "evaluation at a point"
+  -- through infinite sums of continuous linear maps.
+  have step1 : HasSum (fun n ↦ jacobiTheta₂_term_fderiv n z τ) (jacobiTheta₂_fderiv z τ) :=
+    hasSum_jacobiTheta₂_term_fderiv z hτ
+  let eval_fst_CLM : (ℂ × ℂ →L[ℂ] ℂ) →L[ℂ] ℂ :=
+  { toFun := fun f ↦ f (1, 0), map_add' := by simp, map_smul' := by simp }
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:335]: ~ 17000 heartbeats

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 23]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
+  have step2: HasSum (fun n ↦ (jacobiTheta₂_term_fderiv n z τ) (1, 0))
+      ((jacobiTheta₂_fderiv z τ) (1, 0)) := by convert eval_fst_CLM.hasSum step1
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:337]: ~ 20000 heartbeats

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 24]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
+  have step3 (n : ℤ) : (jacobiTheta₂_term_fderiv n z τ) (1, 0) = jacobiTheta₂'_term n z τ := by
+    simp [jacobiTheta₂'_term, jacobiTheta₂_term_fderiv, jacobiTheta₂_term, mul_comm _ (cexp _)]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:339]: ~ 10000 heartbeats

**Comment by loefflerd** [comment]
Thanks for the very thorough review! I should hopefully have some time to look at these comments tomorrow evening.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 25]
```diff
@@ -14,119 +15,501 @@ This file defines the two-variable Jacobi theta function
...
-      ring
+  _ = ∑' n : ℤ, cexp (-π * (-I * τ) * ↑n ^ 2 + 2 * π * (I * z) * ↑n) :=
+    tsum_congr (fun n ↦ by ring_nf)
+  _ = 1 / (-I * τ) ^ (1 / 2 : ℂ) * ∑' (n : ℤ), cexp (-π / (-I * τ) * (n + I * (I * z)) ^ 2) := by
+    rw [tsum_exp_neg_quadratic h2]
+  _ = 1 / (-I * τ) ^ (1 / 2 : ℂ) * cexp (π * I * (-1 / τ) * z ^ 2) *
+      ∑' (n : ℤ), cexp (2 * π * I * n * (z / τ) + π * I * n ^ 2 * (-1 / τ)) := by
+    simp_rw [mul_assoc _ (cexp _), ← tsum_mul_left (a := cexp _), ← Complex.exp_add]
+    congr 2 with n : 1; congr 1
+    field_simp [I_ne_zero]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:473]: `field_simp` is slow, but it's a fairly complicated equation, so it's probably OK.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/OneVariable.lean (hunk 1 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/OneVariable.lean]: Not directly, because the second one is working on a different goal. I rearranged the proof a bit to clarify (getting rid of an `erw` in the process).

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean (hunk 19 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:159]: Thanks, this does indeed speed things up quite a lot

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean (hunk 5 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:193]: Yes, this is very annoying. Lean seems to take a ludicrously long time (about 2 seconds) to infer `FiniteDimensional ℝ (ℂ × ℂ →L[ℂ] ℂ)`. I tried adding some extra instances but this seems to make the problem worse, not better.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean (hunk 20 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:297]: For some reason, it is vastly quicker (several orders of magnitude) to use `IsPreconnected.prod` and then apply `Convex.isPreconnected` to the factors.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean (hunk 21 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:314]: fixed

File: Mathlib/NumberTheory/ZetaFunction.lean (hunk 14 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ZetaFunction.lean:9]: The imports in `JacobiTheta.TwoVariable` changed, so `RemovableSingularity` is no longer transitively imported here and the import needs to be added explicitly.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean (hunk 12 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:460]: They're not working on the same goal. The original goal is closed by `mul_zero`; but `jacobiTheta₂_undef` has spawned a new side goal of proving `(-1 / τ).im ≤ 0` which the last two lines deal with.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean (hunk 7 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:335]: Inlining it actually makes the proof quicker, and I don't think it's any less clear, so I'll do that – thanks!

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean (hunk 22 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:337]: I tried squeezing the `simps` to `simp only` and somehow this actually made it _slower_! Whatever is taking the time, it isn't the two `simp` calls.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean (hunk 23 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:339]: `by apply` is a little quicker (but still quite slow overall).

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean (hunk 9 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:358]: I'm not sure, I didn't see a nice way of unifying them (without adding extra bulk to the arguments).

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean (hunk 18 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:48]: (Most of this time seems to be spent in inferring `SMul ℂ (ℂ × ℂ →L[ℂ] ℂ)`.)

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean (hunk 23 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean]: PS Actually `by apply` is actually a _lot_ quicker (it's just that the proof is still slow overall because of other steps). So I'm going to mark this one as "resolved".

**Comment by loefflerd** [comment]
Hi Michael,

I've implemented the changes you suggested, and done what I could to speed up the slow parts. There are still a few steps that are far slower than they ought to be; I will try asking on zulip if anyone has any suggestions about these.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean (hunk 18 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:48]: With a lot of local instances, this gets below 6000 heartbeats. (More details later.)

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 26]
```diff
@@ -14,119 +15,509 @@ This file defines the two-variable Jacobi theta function
...
+
+We show that the sums of the three functions `jacobiTheta₂_term`, `jacobiTheta₂'_term` and
+`jacobiTheta₂_term_fderiv` are locally uniformly convergent in the domain `0 < im τ`, and diverge
+everywhere else.
+-/
+
+lemma norm_jacobiTheta₂_term (n : ℤ) (z τ : ℂ) :
+    ‖jacobiTheta₂_term n z τ‖ = rexp (-π * n ^ 2 * τ.im - 2 * π * n * z.im) := by
+  rw [jacobiTheta₂_term, Complex.norm_eq_abs, Complex.abs_exp, (by push_cast; ring :
     2 * π * I * n * z + π * I * n ^ 2 * τ = (π * (2 * n) :) * z * I + (π * n ^ 2 :) * τ * I),
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:73]:
```suggestion
    (2 * π : ℂ) * I * n * z + π * I * n ^ 2 * τ = (π * (2 * n) :) * z * I + (π * n ^ 2 :) * τ * I),
```
-300 heartbeats (avoid trying to find a coercion from ℂ to ℝ)

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 27]
```diff
@@ -14,119 +15,509 @@ This file defines the two-variable Jacobi theta function
...
+  refine mul_le_mul (le_of_eq ?_) (norm_jacobiTheta₂_term_le hT hz hτ n)
+    (norm_nonneg _) (by positivity)
+  simp only [norm_mul, Complex.norm_eq_abs, Complex.abs_two, abs_I,
+    Complex.abs_of_nonneg pi_pos.le, abs_intCast, mul_one, Int.cast_abs]
+
+/-- The uniform bound we have given is summable, and remains so after multiplying by any fixed
+power of `|n|` (we shall need this for `k = 0, 1, 2`). -/
+lemma summable_pow_mul_jacobiTheta₂_term_bound (S : ℝ) {T : ℝ} (hT : 0 < T) (k : ℕ) :
+    Summable (fun n : ℤ ↦ |n| ^ k * Real.exp (-π * (T * n ^ 2 - 2 * S * |n|))) := by
+  suffices Summable (fun n : ℕ ↦ n ^ k * Real.exp (-π * (T * n ^ 2 - 2 * S * n))) by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:104]:
```suggestion
    Summable (fun n : ℤ ↦ (|n| ^ k : ℝ) * Real.exp (-π * (T * n ^ 2 - 2 * S * |n|))) := by
  suffices Summable (fun n : ℕ ↦ (n ^ k : ℝ) * Real.exp (-π * (T * n ^ 2 - 2 * S * n))) by
```
-500 heartbeats (here it is ℝ to ℤ)

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 28]
```diff
@@ -14,119 +15,509 @@ This file defines the two-variable Jacobi theta function
...
+  ((hasFDerivAt_jacobiTheta₂ z hτ).comp τ (hasFDerivAt_prod_mk_right z τ)).differentiableAt
+
+lemma hasDerivAt_jacobiTheta₂_fst (z : ℂ) {τ : ℂ} (hτ : 0 < im τ) :
+    HasDerivAt (jacobiTheta₂ · τ) (jacobiTheta₂' z τ) z := by
+  -- This proof is annoyingly fiddly, because of the need to commute "evaluation at a point"
+  -- through infinite sums of continuous linear maps.
+  let eval_fst_CLM : (ℂ × ℂ →L[ℂ] ℂ) →L[ℂ] ℂ :=
+  { toFun := fun f ↦ f (1, 0),
+    map_add' := by simp,
+    map_smul' := by simp }
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:342]: Squeezing the `simp`s speeds this up slightly. `set_option profiler true in set_option profiler.threshold in` shows (among others things) `aesop took 125ms`. Maybe it is used in some automatically filled fields?

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 29]
```diff
@@ -14,119 +15,509 @@ This file defines the two-variable Jacobi theta function
...
+  let V := {u | |im u| < S} ×ˢ {v | T < im v}
+  have hVo : IsOpen V := ((_root_.continuous_abs.comp continuous_im).isOpen_preimage _
+    isOpen_Iio).prod (continuous_im.isOpen_preimage _ isOpen_Ioi)
+  refine ContinuousOn.continuousAt ?_ (hVo.mem_nhds ⟨hz, hτ'⟩)
+  let u (n : ℤ) : ℝ := 2 * π * |n| * rexp (-π * (T * n ^ 2 - 2 * S * |n|))
+  have hu : Summable u  := by simpa only [u, mul_assoc, pow_one]
+      using (summable_pow_mul_jacobiTheta₂_term_bound S hT 1).mul_left (2 * π)
+  refine continuousOn_tsum (fun n ↦ ?_) hu (fun n ⟨z', τ'⟩ ⟨hz', hτ'⟩ ↦ ?_)
+  · apply Continuous.continuousOn
+    continuity
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:366]: The `continuity` call takes the bulk of the time (~20000 heartbeats). This is a lot faster:
```suggestion
    unfold jacobiTheta₂'_term jacobiTheta₂_term
    fun_prop
```

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 30]
```diff
@@ -14,119 +15,509 @@ This file defines the two-variable Jacobi theta function
...
+  simp_rw [jacobiTheta₂_term, ← Complex.exp_add, Equiv.coe_addRight, Int.cast_add]
   ring_nf
 
 /-- The two-variable Jacobi theta function is even in `z`. -/
 lemma jacobiTheta₂_neg_left (z τ : ℂ) : jacobiTheta₂ (-z) τ = jacobiTheta₂ z τ := by
   conv_lhs => rw [jacobiTheta₂, ← Equiv.tsum_eq (Equiv.neg ℤ)]
   refine tsum_congr (fun n ↦ ?_)
-  rw [Equiv.neg_apply, Int.cast_neg, neg_sq]
+  simp_rw [jacobiTheta₂_term, Equiv.neg_apply, Int.cast_neg, neg_sq]
   ring_nf
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:400]:
```suggestion
  simp_rw [jacobiTheta₂_term, Equiv.neg_apply, Int.cast_neg, neg_sq, mul_assoc, neg_mul_neg]
```

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 31]
```diff
@@ -14,119 +15,509 @@ This file defines the two-variable Jacobi theta function
...
-times `jacobiTheta₂ (x / τ) (-1 / τ)`. This is the key lemma behind the proof of the functional
-equation for Dirichlet L-series. -/
-theorem jacobiTheta₂_functional_equation (z : ℂ) {τ : ℂ} (hτ : 0 < im τ) :
-    jacobiTheta₂ z τ =
-      1 / (-I * τ) ^ (1 / 2 : ℂ) * cexp (-π * I * z ^ 2 / τ) * jacobiTheta₂ (z / τ) (-1 / τ) := by
+lemma jacobiTheta₂_conj (z τ : ℂ) :
+    conj (jacobiTheta₂ z τ) = jacobiTheta₂ (conj z) (-conj τ) := by
+  rw [← jacobiTheta₂_neg_left, jacobiTheta₂, conj_tsum]
+  congr 2 with n
+  simp [jacobiTheta₂_term, ← Complex.exp_conj, Complex.conj_ofReal]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:406]: Squeezing this `simp` gains ~700 heartbeats.

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean [hunk 32]
```diff
@@ -14,119 +15,509 @@ This file defines the two-variable Jacobi theta function
...
 -/
 
 open Complex Real Asymptotics Filter Topology
 
-open scoped Real BigOperators
+open scoped BigOperators ComplexConjugate
 
-/-- The two-variable Jacobi theta function,
-`θ z τ = ∑' (n : ℤ), cexp (2 * π * I * n * z + π * I * n ^ 2 * τ)`.
+noncomputable section
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:32]: I have added
```lean
instance : CharZero ℤ := StrictOrderedSemiring.to_charZero
instance : CharZero ℝ := RCLike.charZero_rclike
instance : Module ℂ ℂ := NormedSpace.toModule
instance : Module ℂ (ℂ × ℂ) := Prod.instModule
instance : AddCommMonoid ℂ := inferInstance
instance : AddCommMonoid (ℂ × ℂ) := inferInstance
instance : TopologicalSpace ℂ := inferInstance
instance : TopologicalSpace (ℂ × ℂ) := inferInstance
instance : SMul ℝ ℂ := Algebra.toSMul
instance : SMul ℂ ℂ := Algebra.toSMul
instance : Module ℝ ℂ := instModule
instance : MulActionWithZero ℂ ℂ := MonoidWithZero.toMulActionWithZero ℂ
instance : MulAction ℂ ℂ := MulActionWithZero.toMulAction
instance : SMulCommClass ℂ ℂ ℂ := smulCommClass_self ℂ ℂ
instance : ContinuousConstSMul ℂ ℂ := SMulCommClass.continuousConstSMul
instance : ContinuousConstSMul ℝ ℂ :=
  UniformContinuousConstSMul.to_continuousConstSMul ℝ ℂ
instance : IsScalarTower ℂ ℂ ℂ := IsScalarTower.right
instance : IsScalarTower ℝ ℂ ℂ := IsScalarTower.complexToReal
instance : SMulCommClass ℂ ℝ ℂ := IsScalarTower.to_smulCommClass'
instance : AddCommGroup (ℂ × ℂ →L[ℂ] ℂ) := ContinuousLinearMap.addCommGroup
instance : AddCommMonoid (ℂ × ℂ →L[ℂ] ℂ) := ContinuousLinearMap.addCommMonoid
instance : Module ℝ (ℂ × ℂ →L[ℂ] ℂ) := ContinuousLinearMap.module
instance : Module ℂ (ℂ × ℂ →L[ℂ] ℂ) := ContinuousLinearMap.module
instance : SMul ℂ (ℂ × ℂ →L[ℂ] ℂ) := ContinuousLinearMap.instSMul
instance : NormedSpace ℝ (ℂ × ℂ →L[ℂ] ℂ) := ContinuousLinearMap.toNormedSpace
instance : FiniteDimensional ℂ (ℂ × ℂ →L[ℂ] ℂ) := inferInstance
instance : FiniteDimensional ℝ (ℂ × ℂ →L[ℂ] ℂ) := FiniteDimensional.complexToReal (ℂ × ℂ →L[ℂ] ℂ)
```
This is certainly not very nice (and probably some of these are not very important), but it avoids a lot of slow type class synthesis tasks throughout the file.

Generally, it seems like everything involving `ℂ × ℂ →L[ℂ] ℂ` is prone to slow type class inference issues...

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean (hunk 28 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:342]: Looks like `aesop` is being called by `continuity` to prove that the given linear map is continuous. I've substituted an explicit proof term (generated by using `continuity?` and then golfing the result a bit).

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean (hunk 24 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean]: now squeezed

**Comment by loefflerd** [comment]
On my system, compilation of `JacobiTheta/TwoVariable.lean` (at the current version, commit `bf62a22`) takes about 30 seconds. Merging #11980 brings this down to 26 seconds. This is not quite as much of a speedup as adding Michael's list of explicit custom instances (23 sec on my machine), but it's not too far off. 

I think merging in the long list of explicit instances would probably be judged as contravening mathlib's "house style" (especially given the conclusion of the recent zulip debate "To automate or not to automate?", where several prominent members of the community argued strongly that we should use automated systems whenever possible and tolerate some slow-down as a result). Other than that, I don't think there's much more that can be done to speed it up.

May I suggest that we wait on #11980, and when that is merged, we merge this as it is?

**Comment by MichaelStollBayreuth** [comment]
> On my system, compilation of `JacobiTheta/TwoVariable.lean` (at the current version, commit `bf62a22`) takes about 30 seconds. Merging #11980 brings this down to 26 seconds. This is not quite as much of a speedup as adding Michael's list of explicit custom instances (23 sec on my machine), but it's not too far off.
> 
> I think merging in the long list of explicit instances would probably be judged as contravening mathlib's "house style" (especially given the conclusion of the recent zulip debate "To automate or not to automate?", where several prominent members of the community argued strongly that we should use automated systems whenever possible and tolerate some slow-down as a result). Other than that, I don't think there's much more that can be done to speed it up.
> 
> May I suggest that we wait on #11980, and when that is merged, we merge this as it is?

I tend to agree. It would be good, however, to solve the underlying problem. See also [here](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/simp.20prefers.20CharP.2Ecast_eq_zero.20over.20Nat.2Ecast_zero/near/431783744) on Zulip.

**Comment by MichaelStollBayreuth** [comment]
maintainer merge

File: Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean (hunk 32 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:32]: Does #11980 help here?

Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/JacobiTheta/TwoVariable.lean:32]: @riccardobrasca It does help considerably, which is why Michael and I made it a prereq for this PR; but now it's merged.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
